US07982036B2
A solution of 4,6-dichloropyrimidine (0.1 g, 0.671 mmol), 3-amino-Boc-piperidine (0.16 g, 0.80 mmol) and DIPEA (0.086 g, 6.71 mmol) in n-butanol (5.0 mL) was heated in a pressure tube (120° C., 12 h). The solution was cooled, was quenched with water (2 mL) and was extracted with EtOAc (2×15 mL). The combined EtOAc extract was washed with water (5 mL), brine (5 mL), was dried over Na2SO4 and was concentrated under reduced pressure to give tert-butyl 3-(6-chloropyrimidin-4-ylamino)piperidine-1-carboxylate, which was dried under high vacuum and was used as such for next step without further purification.

reactant | 4,6-dichloropyrimidine | 0.671 mmol, 0.1 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 3-amino-Boc-piperidine | 0.80 mmol, 0.16 g | NC1CN(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | DIPEA | 6.71 mmol, 0.086 g | CCN(C(C)C)C(C)C | C8H19N
solvent | n-butanol | 5.0 mL | C(CCC)O | C4H10O
product | tert-butyl 3-(6-chloropyrimidin-4-ylamino)piperidine-1-carboxylate | ClC1=CC(=NC=N1)NC1CN(CCC1)C(=O)OC(C)(C)C | C14H21ClN4O2
